US04261997
7-Fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carbonitrile
A mixture of 9.2 g of 7-fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide, 25 ml of thionyl chloride and 175 ml of dimethylformamide is stirred and heated at 65° C. for 20 hours, then evaporated at reduced pressure. The residue is stirred with 1 liter of ice water and the resulting solid 7-fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carbonitrile is collected by filtration, washed with water and dried; mp 331°-340° C., after crystallization from dimethylformamide/ethanol.

reactant | 7-fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide | 9.2 g | FC1=CC=2C(N3C(N(C2C=C1)C)=CC(=N3)C(=O)N)=O | C12H9FN4O2
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 175 ml | CN(C=O)C | C3H7NO
product | 7-Fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carbonitrile | FC1=CC=2C(N3C(N(C2C=C1)C)=CC(=N3)C#N)=O | C12H7FN4O
